Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Overdose with diltiazem/Cardiogenic Shock
 
Major Surgical or Invasive Procedure:
ECMO Cannulation (___):
Due to the emergent nature of the procedure and the patient's 
condition, consent could not be obtained from the patient or 
HCP. As such, consent was inferred by the clinical team. 
Lidocaine 1 % was administered. The patient was on ventilator 
support and sedation was administered using the intravenous 
agents documented in the medications section. Estimated blood 
loss <50cc. No specimens were
obtained.

Due to the extremely emergent need to proceed with the procedure 
and the patient's inability to participate in discussions about 
the benefits and risks of the procedure, written informed 
consent was not obtained prior to the procedure. Permission to 
proceed was inferred.  Moderate sedation was provided with 
appropriate monitoring, including ETCO2, performed by a member 
of the nursing staff.

Arterial Access: Arterial access was obtained by percutaneous 
entry of the right femoral artery using ultrasound imaging 
guidance using a Micro Puncture needle and sheath and 
subsequently using a/an 6 ___ 10 cm introducing sheath that 
was subsequently exchanged for a 17 ___ ECMO sheath. At the 
conclusion of the procedure, the arterial sheath was secured in 
place. Angiography of the arteriotomy site was performed after 
initial arterial access.

Arterial Access: Arterial access was obtained by percutaneous 
entry of the right radial artery using a/an 5 ___ sheath. At 
the conclusion of the procedure, the arterial sheath was secured 
in place. Venous Access: Venous access was obtained by 
percutaneous entry of the left femoral vein using ultrasound 
imaging guidance using a MicroPuncture needle and sheath, and 
subsequently using a/an 8 ___ 10 cm introducing sheath. At 
the conclusion of the procedure, the venous sheath was secured 
in place.

Venous Access: Venous access was obtained by percutaneous entry 
of the right internal jugular vein using ultrasound imaging 
guidance using a MicroPuncture needle and sheath, and 
subsequently using a/ an 5 ___ 10 cm introducing sheath. At 
the conclusion of the procedure, the venous sheath was secured 
in place. 

Venous Access: Venous access was obtained by percutaneous entry 
of the left internal jugular vein using ultrasound imaging 
guidance using a MicroPuncture needle and sheath, and 
subsequently using a/an 8 ___ 10 cm introducing sheath. At 
the conclusion of the procedure, the venous sheath was secured 
in place. Venous Access: Venous access was obtained by 
percutaneous entry of the right femoral vein using ultrasound 
imaging guidance using a MicroPuncture needle and sheath, and 
subsequently using a/an 8 ___ 10 cm introducing sheath that 
was subsequently exchanged for a 25 ___ ECMO sheath. At the 
conclusion of the procedure, the venous sheath was secured in 
place.

Right Heart Catheterization: Right heart catheterization was 
performed using a/an 7.5 ___ ___ VIP 
___ Catheter advanced to the PCW position through the 
venous sheath in the left internal jugular vein. Cardiac output 
was calculated using oxymetric measurements and the Fick 
principle. The oxygen consumption was assumed to be 125 
mL/min/m2. At the conclusion of the case, the right heart 
catheter was secured in place for hemodynamic monitoring in the 
CCU/ICU, with the catheter at the 55 cm position at the hub of 
the introducing sheath. To evaluate the absence of intracardiac 
shunt, saturation measurements were drawn from RA.

A/An 5 ___ pacing catheter with a balloon was delivered to 
the right ventricle. Pacing thresholds were assessed. Pacing was 
initiated for brachycardia.

VAD Placement (Percutanoues VA ECMO): The TandemHeart pump and 
console connection were prepared in the standard fashion. 
Absence of air bubbles in the pump housing and connecting tubing 
was confirmed. The right femoral vein was used for access to 
place the inflow cannula. A 25 ___ cannla was delivered over 
a guidewire to the ___ atrium. The inflow introducer was 
removed, and the catheter clamped after being de-aired. The 17 
___ ECMO outflow cannula was inserted into the right femoral 
artery and delivered to the right femoral artery. The outflow 
introducer was removed, and the catheter clamped after being 
de-aired. Airless connections were made between the inflow 
cannula and the inflow tubing of the TandemHeart pump and 
between the outflow cannula and the outflow tubing of the 
TandemHeart pump. A membrane oxygenator was placed in a series 
with the outflow cannula using an airless connection for ECMO. 
The clamps were removed and hemodynamic support initiated. The 
pump flow was increased to 4.2 L/min at 4500 RPM. The cannula 
were then sewn in place.
 
History of Present Illness:
___ female with history of depression, anxiety, 
hypertension who presents with a suicide attempt in which she 
took approximately 84 tablets of extended release diltiazem 
240mg, total 20.2g at ___ on ___. Patient also states that 
she drank 2 mg of Klonopin and drank a nip of vodka.  At that 
time the author of this note met the patient, she was she was in 
the cardiac catheterization laboratory being cannulated for 
ECMO.  Please see hospital course for further details.
 
Past Medical History:
- Hypercholesterolemia
- Hypertension
- Depression/Anxiety
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
See hospital course for vitals signs.  I have not personally 
examined the patient.  When I have initially met the patient, 
she was being cannulated for ECMO and coded immediately after 
being transported to the CVICU.
 
Pertinent Results:
___ 09:11AM   TYPE-ART PO2-169* PCO2-25* PH-7.10* TOTAL 
CO2-8* BASE XS--20
___ 09:11AM   TYPE-ART PO2-169* PCO2-25* PH-7.10* TOTAL 
CO2-8* BASE XS--20
___ 09:11AM   LACTATE-20*
___ 08:55AM   GLUCOSE-492* UREA N-15 CREAT-0.9 SODIUM-148* 
POTASSIUM-4.8 CHLORIDE-117* TOTAL CO2-8* ANION GAP-23*
___ 08:55AM   ALT(SGPT)-440* AST(SGOT)-407* LD(LDH)-1554* 
ALK PHOS-51 AMYLASE-27 TOT BILI-UNABLE TO 
___ 08:55AM   ALBUMIN-UNABLE TO  CALCIUM-10.8* 
PHOSPHATE-10.8*# MAGNESIUM-3.0* URIC ACID-7.2*
___ 08:55AM   ASA-NEGATIVE ETHANOL-48* ACETMNPHN-NEGATIVE 
tricyclic-NEGATIVE
___ 08:55AM   WBC-11.5* RBC-UNABLE TO  HGB-UNABLE TO  
HCT-19.0* MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  RDW-15.4 
RDWSD-65.4*
___ 08:55AM   NEUTS-52 BANDS-11* ___ MONOS-0* EOS-0* 
___ METAS-7* MYELOS-2* NUC RBCS-1.8* AbsNeut-7.25* 
AbsLymp-3.22 AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 08:55AM   POIKILOCY-1+* ECHINO-1+*
___ 08:55AM   PLT SMR-LOW* PLT COUNT-97*
___ 08:55AM   ___ IS HIG PTT-150 IS HIG ___
___ 08:55AM   FIBRINOGE-UNABLE TO  D-DIMER-UNABLE TO 
___ 08:55AM   HEPARIN-UNABLE TO  LMWH-UNABLE TO 
___ 08:27AM   PO2-304* PCO2-34* PH-6.65* TOTAL CO2-5* BASE 
XS--36
___ 08:27AM   LACTATE-18.0*
___ 08:04AM   PO2-187* PCO2-52* PH-6.59* TOTAL CO2-6* BASE 
XS--37
___ 08:04AM   GLUCOSE-543* LACTATE-20.0* CREAT-1.4* NA+-141 
K+-5.6* CL--116*
___ 08:04AM   freeCa-2.22*
___ 06:43AM   ___ PO2-93 PCO2-98* PH-6.66* TOTAL 
CO2-13* BASE XS--31
___ 06:43AM   GLUCOSE-596* CREAT-1.3* NA+-144 K+-5.7* 
CL--106
___ 06:43AM   HGB-.0* calcHCT-0 O2 SAT-TEST NOT D
___ 05:55AM   ___ PO2-38* PCO2-131* PH-6.32* TOTAL 
CO2-10* BASE XS--47
___ 05:55AM   LACTATE-18*
___ 05:55AM   O2 SAT-UNABLE TO 
___ 05:53AM   ___ P PTT-CANCELLED  ___ 
P
___ 05:53AM   FIBRINOGE-NEW SPECIM D-DIMER-NEW SPECIM
___ 05:14AM   GLUCOSE-346* CREAT-1.4* NA+-150* K+-4.5 
CL--122* TCO2-8*
___ 05:14AM   estGFR-Using this
___ 05:14AM   HGB-12.3 calcHCT-37
___ 02:48AM   ___ PO2-57* PCO2-32* PH-7.31* TOTAL 
CO2-17* BASE XS--9
___ 02:48AM   LACTATE-4.4* K+-3.4*
___ 02:48AM   O2 SAT-83
___ 02:43AM   GLUCOSE-269* UREA N-18 CREAT-1.3* SODIUM-142 
POTASSIUM-3.9 CHLORIDE-112* TOTAL CO2-14* ANION GAP-16
___ 02:43AM   estGFR-Using this
___ 02:43AM   ALT(SGPT)-33 AST(SGOT)-29 ALK PHOS-85 TOT 
BILI-0.3
___ 02:43AM   LIPASE-36
___ 02:43AM   ALBUMIN-3.6 CALCIUM-8.3* PHOSPHATE-3.7 
MAGNESIUM-1.5*
___ 02:43AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:43AM   WBC-21.1* RBC-3.74* HGB-12.4 HCT-38.9 
MCV-104* MCH-33.2* MCHC-31.9* RDW-13.8 RDWSD-53.1*
___ 02:43AM   NEUTS-69.6 ___ MONOS-4.8* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-14.67* AbsLymp-5.05* 
AbsMono-1.01* AbsEos-0.00* AbsBaso-0.09*
___ 02:43AM   PLT COUNT-237
 
Brief Hospital Course:
Per EMS run sheet by the ___ ___ fire department, EMS 
responded to a phone call at 20:33.  On arrival, they found Ms. 
___ in the basement of the home, who reported the above 
overdose.  She was transferred to ___. On 
presentation to ___, she was initially relatively 
hemodynamically stable and was able to offer a history.  With 
consultation poison control, she was treated with 50 g of 
activated charcoal and 2 L of glycol (she was only able to drink 
about half a liter of this).  She also received 4L normal saline 
bolus and was given 2 g of calcium gluconate.  Her initial labs 
notable for potassium of 3.1 which was repleted with IV 
potassium.  On the ambulation she was noted to be hypotensive 
with a heart rate in the ___.  She was started on peripheral 
Levophed.  She also received additional 2 g of calcium 4 g 
total.  At that she was transferred to ___.

Upon arrival to ___ emergency room, patient was 
hypotensive with BP 78/47. Initial labs notable for lactate of 
4.4, leukocytosis with elevated WBC of 21.1, and a mild ___ with 
elevated creatinine of 1.3. Initial VBG showed pH of 7.31, pCO2 
of 31, pO2 of 57, and HCO3 of 17.  Initial EKG notable for sinus 
rhythm 78 bpm normal axis, normal intervals, non-specific ST/TW 
changes.  She received further doses of calcium gluconate, was 
bolused with high-dose insulin and was started on insulin drip.  
Subsequently patient was noted to be persistently hypoxic and at 
04:24 she became bradycardic with heart rate in the ___.  CPR 
was initiated.  And was intubated without any immediate 
complication.  Repeat VBG at 05:55 showed significant decline, 
with pH of 6.32, pCO2 of 131, pO2 of 38,and HCO3 of 10. Lactate 
was elevated to 18. At this point, patient is on high dose 
insulin drip, receiving calcium prn and is on max doses of 
levophed and epinephrine, as well as dopamine.  ECMO team was 
mobilized and patient was successfully cannulated with ECMO. 
pump for was set to 4.2 L/min at 4500 RPM.

Despite above interventions, patient did not have any 
significant improvement in her hemodynamics.  Despite high doses 
of multiple vaspressors/inotropes in addition to many rounds of 
calcium gluconate, insulin/glucose, she continued to deteriorate 
clinically.  Immediately after arrival to the CVICU from the 
catheterization lab, patient coded.  See code documentation by 
Dr. ___ for details.  On arrival to the CVICU, it was 
noted that cap had come off the inflow cannula and air had been 
entrained into the circuit.  The arterial (outflow) cannula was 
clamped by perfusion and subsequently so was the venous (inflow) 
cannula. CPR was commenced immediately which attempts were made 
to switch out the circuit.  Per report, she was pronounced dead 
at 11:10 am in the setting of failed cardiopulmonary 
resuscitation. 

Family arrived shortly after the patient died and was updated at 
bedside by Dr. ___.  Given death within 24 hours of 
arrival and reported overdose, Chief Medical Examiner office was 
called and they have accepted the case.  Details below: 

Medical Examiner Case #:  ___
Accepting on behalf of the ___:  ___

___ was also called and they have deferred 
pending Chief Medical Examiner investigation.
 
Medications on Admission:
Diltiazem and Klonopin
 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Cardiogenic shock
 
Discharge Condition:
Deceased
 
Discharge Instructions:
None
 
Followup Instructions:
___